US07858796B2
(42) 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde
To 4-bromo-2-thiophenecarbaldehyde (500 mg, 2.61 mmol) in DME (18 mL), bis(pinacolato)diboron (865 mg, 3.403 mmol), potassium acetate (667 mg, 6.81 mmol) and PdCl2(dppf) (96 mg, 0.131 mmol) were added. The reaction mixture was heated by microwave at 150° C. for 20 minutes. Then all the solvent was evaporated. The residue was partitioned between ethyl acetate (100 mL) and water (100 mL). The water layer was extracted with ethyl acetate (2×100 mL). The combined organic phase washed with brine (100 mL) and dried with Mg2SO4 and concentrated. The crude product was purified by Combiflash (Hexane/ethyl acetate, 1%-30% ethyl acetate, 20 min.) to give title compound (550 mg, 88%).

reactant | 4-bromo-2-thiophenecarbaldehyde | 2.61 mmol, 500 mg | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | bis(pinacolato)diboron | 3.403 mmol, 865 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.81 mmol, 667 mg | C(C)(=O)[O-].[K+]
solvent | DME | 18 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 0.131 mmol, 96 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde | 550 mg, 88% | CC1(OB(OC1(C)C)C=1C=C(SC1)C=O)C | C11H15BO3S
